US07642361B2
3-Amino-4-cyano-5-trifluoromethyl-thiophene-2-carboxylic acid ethyl ester
Combine 1,1-dicyano-2-chloro-2-(trifluoromethyl)ethylene (0.554 mmol) (prepared by the method of Middleton, J. Fluorine Chem., 20, 1982, p 397-418) and ethanol in a 50 ml flask. Add ethyl 2-mercaptoacetate (0.554 mmol) and potassium acetate (0.831 mmol) and heat to 60-70° C. for 30-40 minutes. Cool the reaction and add water. Product crystallizes as yellowish needles. Filter crystals and wash with 1:1 ethanol/water. Dry solid under reduced pressure to give the title compound as light yellow crystals: 1H NMR (400 MHz, CDCl3) δ 5.88 (s, 2H), 4.36 (q, 2H, J=7.2 Hz), 1.38 (t, 3H, J=7.0 Hz), MS found (M−1) 262.9.

reactant | 1,1-dicyano-2-chloro-2-(trifluoromethyl)ethylene | 0.554 mmol | C(#N)C(=C(C(F)(F)F)Cl)C#N | C5ClF3N2
reactant | Fluorine | FF | F2
reactant | ethyl 2-mercaptoacetate | 0.554 mmol | SCC(=O)OCC | C4H8O2S
reactant | potassium acetate | 0.831 mmol | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-4-cyano-5-trifluoromethyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1N)C#N)C(F)(F)F | C9H7F3N2O2S
